US07465731B2
Lithium aluminium hydride (1.02 g) was added to a solution of methyl 6-{[(3R)-1-(tert-butoxycarbonyl)-3-pyrrolidinyl]amino}nicotinate (5.76 g) in THF (80 ml) with stirring at 5-15° C. under atmospheric pressure of nitrogen, and the reaction mixture was stirred at 5-20° C. for 3 hours. The reaction mixture was cooled at 5° C. and H2O (1 ml), 15% NaOH solution (1 ml) and H2O (3 ml) was added and the resultant mixture was stirred at ambient temperature for 30 minutes. The reaction mixture was filtrated and the filtrate was dried over MgSO4. The solvent was evaporated in vacuo and the residue was chromatographed on silicagel eluting with AcOEt-MeOH (9:1). The eluted fractions containing the desired product were collected and evaporated in vacuo to give tert-butyl (3R)-3-{[5-(hydroxymethyl)-2-pyridinyl]amino}-1-pyrrolidinecarboxylate (1.82 g).

reactant | Lithium aluminium hydride | 1.02 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 6-{[(3R)-1-(tert-butoxycarbonyl)-3-pyrrolidinyl]amino}nicotinate | 5.76 g | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)NC1=NC=C(C(=O)OC)C=C1 | C16H23N3O4
reactant | H2O | 1 ml | O | H2O
reactant | NaOH | 1 ml | [OH-].[Na+]
reactant | H2O | 3 ml | O | H2O
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | tert-butyl (3R)-3-{[5-(hydroxymethyl)-2-pyridinyl]amino}-1-pyrrolidinecarboxylate | 1.82 g | OCC=1C=CC(=NC1)N[C@H]1CN(CC1)C(=O)OC(C)(C)C | C15H23N3O3
